US06723483B1
To 38 g of diphenyl sulfoxide were added 500 ml of mesitylene and 340 g of aluminum bromide, followed by allowing a reaction to take place at 90° C. for 12 hours. After the reaction solution was cooled, a mixture of 100 ml of concentrated hydrobromic acid solution and 500 ml of ice water were poured. An aqueous layer was extracted with benzene and the organic layer was washed with water and dried over anhydrous MgSO4, followed by filtration and removal of the solvent, whereby 58 g (Yield: 80%) of diphenyl-2,4,6-trimethylphenylsulfonium bromide was obtained as white crystal.

reactant | diphenyl sulfoxide | 38 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | mesitylene | 500 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | aluminum bromide | 340 g | [Br-].[Al+3].[Br-].[Br-]
reactant | hydrobromic acid | 100 ml | Br | BrH
product | diphenyl-2,4,6-trimethylphenylsulfonium bromide | 58 g, Yield: 80% | [Br-].C1(=CC=CC=C1)[S+](C1=C(C=C(C=C1C)C)C)C1=CC=CC=C1 | InChI=1S/C21H21S.BrH/c1-16-14-17(2)21(18(3)15-16)22(19-10-6-4-7-11-19)20-12-8-5-9-13-20;/h4-15H,1-3H3;1H/q+1;/p-1
